US07713994B2
A suspension of (4Z)-4-({[2-fluoro-6-(4-methylpiperazin-1-yl)pyridin-3-yl]amino}methylene)-6-iodoisoquinoline-1,3(2H,4H)-dione (0.10 g, 0.20 mmol), 3-furanboronic acid (55 mg, 0.50 mmol), tris(dibenzylideneacetone)dipalladium(0) (27 mg, 0.03 mmol) and cesium carbonate (0.13 g) in N,N-dimethylformamide (2 mL) is heated in a 120° C. oil bath for 10 minutes. Tri-tert-butylphosphine (20 mg/mL solution in N,N-dimethylformamide, 0.50 mL, 10 mg, 0.05 mmol) is added, and the mixture continued to stir in the oil bath for one hour. After cooling to room temperature, the reaction mixture is diluted with chloroform and washed with saturated aqueous sodium hydrogen carbonate solution. The organic layer is concentrated under reduced pressure and purified via reverse phase HPLC to provide (4Z)-4-({[2-fluoro-6-(4-methylpiperazin-1-yl)pyridin-3-yl]amino}methylene)-6-(3-furyl)isoquinoline-1,3(2H,4H)-dione.3 trifluoroacetic acid salt (53 mg, 34%).

reactant | (4Z)-4-({[2-fluoro-6-(4-methylpiperazin-1-yl)pyridin-3-yl]amino}methylene)-6-iodoisoquinoline-1,3(2H,4H)-dione | 0.20 mmol, 0.10 g | FC1=NC(=CC=C1N\C=C\1/C(NC(C2=CC=C(C=C12)I)=O)=O)N1CCN(CC1)C | C20H19FIN5O2
reactant | 3-furanboronic acid | 0.50 mmol, 55 mg | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | cesium carbonate | 0.13 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Tri-tert-butylphosphine | 0.05 mmol, 0.50 mL, 10 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.03 mmol, 27 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (4Z)-4-({[2-fluoro-6-(4-methylpiperazin-1-yl)pyridin-3-yl]amino}methylene)-6-(3-furyl)isoquinoline-1,3(2H,4H)-dione | FC1=NC(=CC=C1N\C=C\1/C(NC(C2=CC=C(C=C12)C1=COC=C1)=O)=O)N1CCN(CC1)C | C24H22FN5O3
